US07790709B2
Preparation of (E)-N-Methyl-N-(3-methyl-benzo[b]thiophen-2-ylmethyl)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting methyl-(3-methyl-benzo[b]thiophen-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (140 mg, 33%) was prepared as a off-white solid: 1H NMR (300 MHz, DMSO-d6) δ 10.45 (br s, 1H), 10.14 (s, 1H), 8.41-8.39 (m, 1H), 8.01 (s, 1H), 7.88-7.86 (m, 1H), 7.74-7.73 (m, 1H), 7.56-7.53 (m, 1H), 7.41-7.18 (m, 3H), 6.31 (br s, 1H), 5.11-4.88 (m, 2H), 4.57-4.55 (m, 2H), 3.99-3.96 (m, 2H), 3.75-3.71 (m, 4H), 3.57-3.55 (m, 2H), 3.39-3.37 (m, 2H), 3.1.5-2.94 (m, 5H), 2.42 (s, 3H); MS (ESI) m/e 506 (M+H)+.

reactant | (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride | Cl.N1(CCOCC1)CCN1C(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | methyl-(3-methyl-benzo[b]thiophen-2-ylmethyl)amine | CNCC1=C(C2=C(S1)C=CC=C2)C | C11H13NS
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-N-Methyl-N-(3-methyl-benzo[b]thiophen-2-ylmethyl)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride | 140 mg, 33% | Cl.CN(C(\C=C\C1=CC2=C(NC(N(C2)CCN2CCOCC2)=O)N=C1)=O)CC1=C(C2=C(S1)C=CC=C2)C | InChI=1S/C27H31N5O3S.ClH/c1-19-22-5-3-4-6-23(22)36-24(19)18-30(2)25(33)8-7-20-15-21-17-32(27(34)29-26(21)28-16-20)10-9-31-11-13-35-14-12-31;/h3-8,15-16H,9-14,17-18H2,1-2H3,(H,28,29,34);1H/b8-7+;
